US04229352
To a stirred solution of 3-benzylpyrrolylmethyl alcohol (1.8 mmol), 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylic acid (2.0 mmol) and 4-dimethylaminopyridine (0.65 mmol) in 20 ml of methylene chloride and 2 ml of DMF is added N,N'-dicyclohexylcarbodiimide (2 mmol). The reaction mixture is stirred, under nitrogen, for about two hours and then filtered and extracted with water. The aqueous phase is extracted with ether. The combined organic phases are washed with saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride, dried over calcium sulfate and solvent evaporated. The crude product is chromatographed on a rotary chromatograph eluting with ether/hexane to yield 3-benzylpyrrolylmethyl 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-benzylpyrrolylmethyl alcohol | 1.8 mmol | C(C1=CC=CC=C1)C1=C(NC=C1)CO | C12H13NO
reactant | 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylic acid | 2.0 mmol | C(CCCC)OC1C(C1C(=O)O)(C)C | C11H20O3
reactant | N,N'-dicyclohexylcarbodiimide | 2 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.65 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-benzylpyrrolylmethyl 3-(n-pentyloxy)-2,2-dimethylcyclopropanecarboxylate | C(CCCC)OC1C(C1C(=O)OCC=1NC=CC1CC1=CC=CC=C1)(C)C | C23H31NO3
